US05064564
To a solution of 186 mg (0.53 mmol) of (4R)-4-hydroxy-2-[4-(4-methoxyphenyl)phenyl]decanenitrile in 10 ml of pyridine were added a solution of 303 mg (1.6 mmol) of p-toluenesulfonyl chloride in 20 ml of pyridine and 10 mg of DMAP. The resulting mixture was stirred at room temperature overnight. The pyridine was then removed by evaporation under reduced pressure. The residue was separated and purified by column chromatography (hexane/ethyl acetate=4/1), thereby obtaining 130 mg (yield 49%) of (4R)-4-p-toluenesulfonyloxy-2-[4-(4-methoxyphenyl)phenyl]decanenitrile.

reactant | (4R)-4-hydroxy-2-[4-(4-methoxyphenyl)phenyl]decanenitrile | 0.53 mmol, 186 mg | O[C@@H](CC(C#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OC)CCCCCC | C23H29NO2
reactant | p-toluenesulfonyl chloride | 1.6 mmol, 303 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (4R)-4-p-toluenesulfonyloxy-2-[4-(4-methoxyphenyl)phenyl]decanenitrile | 130 mg, yield 49% | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H](CC(C#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OC)CCCCCC)C | C30H35NO4S
